US07557110B2
Synthesis of 1-{5-[(trans-4-aminocyclohexyl)amino]-7-[(4-iodophenyl)amino]-6-methyl(pyrazolo[1,5-a]pyrimidin-3-yl)}-2,2,2-trifluoroethan-1-one (Compound NO: 417).
To a solution of N-{5-[(trans-4-aminocyclohexyl)amino]-6-methyl(pyrazolo[1,5-a]pyrimidin-7-yl)}(tert-butoxy)-N-(4-iodophenyl)carboxamide (50 mg) in 1,2-dichloroethane (1.8 mL) was added trifluoroacetic anhydride (1.8 mL). The resulting mixture was stirred at 45° C. for 3 h and then the solvent was removed in vacuo. The residue was dissolved in CH2Cl2 (1.25 mL). To this stirred solution was added trifluoroacetic acid (0.53 mL). The resulting mixture was stirred at room temperature for 3 h, and then the solvent was removed in vacuo. The residue was dissolved in tetrahydrofuran (1.6 mL) and methanol (0.18 mL). To this stirred solution was added 2 mol/L aqueous NaOH (0.18 mL). The resulting mixture was stirred at room temperature for 15 h. The reaction was quenched with aqueous 1N HCl. After extraction with CH2Cl2, the combined organic layer was washed with saturated aqueous NaCl, dried over Na2SO4 and then the solvent was removed in vacuo. The residue was purified by preparative HPLC to give the title compound (33.0 mg, yield 41% as 3 trifluoroacetic acids salt) as a white solid. The 1H-NMR, HPLC retention time and ESI/MS data for this compound are shown below.

reactant | N-{5-[(trans-4-aminocyclohexyl)amino]-6-methyl(pyrazolo[1,5-a]pyrimidin-7-yl)}(tert-butoxy)-N-(4-iodophenyl)carboxamide | 50 mg | N[C@@H]1CC[C@H](CC1)NC1=NC=2N(C(=C1C)N(C(=O)OC(C)(C)C)C1=CC=C(C=C1)I)N=CC2 | C24H31IN6O2
reactant | trifluoroacetic anhydride | 1.8 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | 1,2-dichloroethane | 1.8 mL | ClCCCl | C2H4Cl2
product | 1-{5-[(trans-4-aminocyclohexyl)amino]-7-[(4-iodophenyl)amino]-6-methyl(pyrazolo[1,5-a]pyrimidin-3-yl)}-2,2,2-trifluoroethan-1-one | 33.0 mg, yield 41% | N[C@@H]1CC[C@H](CC1)NC1=NC=2N(C(=C1C)NC1=CC=C(C=C1)I)N=CC2C(C(F)(F)F)=O | C21H22F3IN6O
